US06291452B1
A mixture of (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-tert-butylcarbonylmethyl-3-tert-butoxycarbonylamino-9-methyl-1H-1,4-benzodiazepin-2-one (130 mg) and 4N HCl in ethyl acetate (1 ml) was stirred at 0° C. for 5 hours. Ethyl acetate and a saturated aqueous solution of sodium bicarbonate were added to the reaction mixture. The separated organic layer was washed with water and brine, and then dried over sodium sulfate. The solvent was evaporated in vacuo to afford (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-tert-butylcarbonylmethyl-9-methyl-1H-1,4-benzodiazepin-2-one (100 mg, 97.1%) as a crystalline powder.

reactant | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-tert-butylcarbonylmethyl-3-tert-butoxycarbonylamino-9-methyl-1H-1,4-benzodiazepin-2-one | 130 mg | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2C)CC(=O)C(C)(C)C)=O)NC(=O)OC(C)(C)C | C27H32FN3O4
reactant | HCl | 4N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-tert-butylcarbonylmethyl-9-methyl-1H-1,4-benzodiazepin-2-one | 100 mg, 97.1% | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C)CC(=O)C(C)(C)C)=O | C22H24FN3O2
